US08563735B2
4-sulfamoyl-N-((tetrahydro-2H-pyran-4-yl)methyl)benzamide
4-Sulfamoylbenzoic acid (201 mg), (tetrahydro-2H-pyran-4-yl)methanamine (144 mg), 1-hydroxybenzotriazole hydrate (230 mg), and 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride (288 mg) were combined in acetonitrile. The mixture was stirred at room temperature overnight. The solids were filtered off and reaction mixture was concentrated. The crude material was purified by flash chromatography eluting with a gradient of 2% methanol/dichloromethane to 10% methanol/dichloromethane.

reactant | 4-Sulfamoylbenzoic acid | 201 mg | S(N)(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H7NO4S
reactant | (tetrahydro-2H-pyran-4-yl)methanamine | 144 mg | O1CCC(CC1)CN | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 230 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride | 288 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-sulfamoyl-N-((tetrahydro-2H-pyran-4-yl)methyl)benzamide | S(N)(=O)(=O)C1=CC=C(C(=O)NCC2CCOCC2)C=C1 | C13H18N2O4S
